US07713994B2
(4E)-4-[(Dimethylamino)methylene]-1,4-dihydro-3(2H)-isoquinolinone
A N,N-dimethylformamide (1 mL) solution containing 1,4-dihydro-3(2H)-isoquinolinone (300 mg, 2.04 mmol) and N,N-dimethylformamide dimethylacetal (0.65 mL, 4.89 mmol) is heated at 100° C. for 2.5 hours. After removing the solvents, the residue is washed with ether, water and ether to give 88 mg of the product as a pink solid. The filtrate is evaporated to dryness, and the residue is treated with ether, water and ether to give 105 mg of a second crop of the product with a total yield of 47% (193 mg); MS (ESI) m/z 203.2 (M+1). Ref: Chemistry of Heterocyclic compd. 370-374 (1981).

reactant | 1,4-dihydro-3(2H)-isoquinolinone | 2.04 mmol, 300 mg | C1NC(CC2=CC=CC=C12)=O | C9H9NO
reactant | N,N-dimethylformamide dimethylacetal | 4.89 mmol, 0.65 mL | COC(N(C)C)OC | C5H13NO2
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | (4E)-4-[(Dimethylamino)methylene]-1,4-dihydro-3(2H)-isoquinolinone | 88 mg, yield of 47% | CN(C)\C=C/1\C(NCC2=CC=CC=C12)=O | C12H14N2O
